US05622954
Under a nitrogen atmosphere, a mixture of 0.8 gram (0.021 mole) of sodium hydride (60% in mineral oil) in 40 mL of ethanol is stirred for about 15 minutes, and a solution of 2.8 grams (0.021 mole) of ethyl acetoacetate in 5 mL of ethanol is added dropwise. Upon completion of addition, the reaction mixture is stirred at ambient temperature for one hour. After this time a solution of 5.0 grams (0.021 mole) of 1-chloro-3-(2,5-dichlorophenyl)-2-butene in 10 mL of ethanol is added dropwise. Upon completion of addition, the reaction mixture is stirred at ambient temperature for about 18 hours. The reaction mixture is then concentrated under reduced pressure to a residue. The residue is stirred with 50 mL of an aqueous 10% acetic acid solution and then is extracted with two 30 mL portions of diethyl ether. The combined extracts are washed with an aqueous solution saturated with sodium chloride. The organic layer is dried with magnesium sulfate and filtered. The filtrate is concentrated under reduced pressure to a residue. The residue is subjected to column chromatography on silica gel, using petroleum ether as the eluant. The product-containing fractions are combined and concentrated under reduced pressure, yielding 5.2 grams of ethyl 2-methylcarbonyl-5-(2,5-dichlorophenyl)-4-hexenoate. The NMR spectrum is consistent with the proposed structure.

reactant | sodium hydride | 0.021 mole, 0.8 gram | [H-].[Na+]
reactant | ethyl acetoacetate | 0.021 mole, 2.8 grams | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 1-chloro-3-(2,5-dichlorophenyl)-2-butene | 0.021 mole, 5.0 grams | ClCC=C(C)C1=C(C=CC(=C1)Cl)Cl | C10H9Cl3
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | ethyl 2-methylcarbonyl-5-(2,5-dichlorophenyl)-4-hexenoate | 5.2 grams | CC(=O)C(C(=O)OCC)CC=C(C)C1=C(C=CC(=C1)Cl)Cl | C16H18Cl2O3
